US05849747
(1) Preparation of diisopropyl 4-hydroxy-4-phenyl-1,3-butanedicarboxylate
38 ml of a 1.5M lithium diisopropylamide cyclohexane solution was dissolved in 400 ml of tetrahydrofuran, and 20 ml of a tetrahydrofuran solution containing 10.3 g of diisopropyl glutarate was dropwise added at -78° C. in a nitrogen atmosphere. After stirring at the same temperature for 30 minutes, 10 ml of a tetrahydrofuran solution containing 3.9 g of benzaldehyde was dropwise added thereto, followed by stirring at -78° C. for 1.5 hours. 2N hydrochloric acid was added to the reaction solution, and the temperature was brought to room temperature. Then, the mixture was extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, a saturated sodium hydrogencarbonate aqueous solution and a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1→3/1) to obtain 6.14 g of the above-identified compound as a colorless oily substance.

reactant | lithium diisopropylamide cyclohexane | 1.5M | C1CCCCC1.C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropyl glutarate | 10.3 g | C(CCCC(=O)OC(C)C)(=O)OC(C)C | C11H20O4
reactant | benzaldehyde | 3.9 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | diisopropyl 4-hydroxy-4-phenyl-1,3-butanedicarboxylate | 6.14 g | OC(C(CCC(=O)OC(C)C)C(=O)OC(C)C)C1=CC=CC=C1 | C18H26O5
